US07112638B2
Synthesis of 3-isopropyl-1-methyl-1,3-cyclopentadiene
A solution of 24 g (0.2 mol) of 3,6,6-trimethylfulvene in 100 mL of ether was added at 78° C. under argon atmosphere to a solution of 7.59 g (0.2 mol) of lithium aluminium hydride in 200 mL of ether. The reaction mixture was allowed to warm to room temperature, stirred for 2 h and then treated with a 10% aq. solution of NH4Cl. The organic phase was collected, washed with water, dried with MgSO4 and concentrated. The residue was distilled at 63° C./50 mmHg. Yield 15.88 g (65%).The desired title compound was characterized by 1H-NR

reactant | 3,6,6-trimethylfulvene | 0.2 mol, 24 g | CC=1C=CC(C1)=C(C)C | C9H12
reactant | lithium aluminium hydride | 0.2 mol, 7.59 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ether | 100 mL | CCOCC | C4H10O
solvent | ether | 200 mL | CCOCC | C4H10O
product | 3-isopropyl-1-methyl-1,3-cyclopentadiene | C(C)(C)C=1C=C(CC1)C | C9H14
